*
R1 N006 N001 1
R2 N007 N006 2
R3 N008 N007 3
R4 N009 N008 4
R5 0 N009 5
R6 N005 0 1
R7 N004 N005 2
R8 N003 N004 3
R9 N002 N003 4
R10 N001 N002 5
V1 0 N001 SINE(0 10 1k)
.tran 0 1m 0 1u
.backanno
.end
